US04621084
A mixture of 5-(3-methylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone (2.8 g) and sodium hydride (50% suspension in oil, 0.96 g) in dry dimethylformamide (30 ml) was stirred at ambient temperature for 30 minutes. To the resultant mixture was added 2-bromoethyl acetate (3.34 g) at ambient temperature and stirred for 5 hours under the same condition. The reaction mixture was poured into water and adjusted to pH 7.0 with 10% hydrochloric acid. The neutrallized solution was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was subjected to column chromatography on silica gel eluting with a mixture of ethyl acetate and diisopropyl ether (8:2). The fractions containing the desired compound was combined and evaporated in vacuo. The crystalline residue was recrystallized from ethyl acetate to afford 5-(3-methylimidazo[1,2-a]pyridin-2-yl)-3-(2-acetoxyethyl)-2-benzothiazolinone (1.3 g). mp. 113°-115° C.

reactant | 5-(3-methylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone | 2.8 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(NC(S1)=O)C2 | C15H11N3OS
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 2-bromoethyl acetate | 3.34 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(3-methylimidazo[1,2-a]pyridin-2-yl)-3-(2-acetoxyethyl)-2-benzothiazolinone | 1.3 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(N(C(S1)=O)CCOC(C)=O)C2 | C19H17N3O3S
